US05459243
3',5'-Di-O-benzoyl-2'-O-methyl-5-trifluoromethyluridine (10.6 g, 20 mmoles) was dissolved in dry methanol (250 ml). Sodium metal (0.7 g, 30 mmoles) was added and the resulting solution was stirred at room temperature for 17 hours. Ammonium chloride (1.6 g, 31 mmoles) was added and the solvent was removed under reduced pressure. The residue was chromatographed on a silica gel (100 g) column eluting with a gradient of 0 to 10% methanol in CH2Cl2 to afford 6.1 g (94%) 2'-O-methyl-5-trifluoromethyluridine as a white solid, mp 192°-194°. 1H NMR (DMSO-d6): δ3.43 (s, 3H, OCH3), 3.5-3.8 (m, 2H, H-5'), 3.8-4.0 (m, 2H, H-3',4'), 4.12 (m, 1H, H-2'), 5.18 (d, J=7 Hz, 1H, 3' -OH), 5.40 (br t, 1H, 5'-OH), 5.78 (d, J=2.5 Hz, 1H-1'), 8.92 (s, 1H, H-6), 11.80 (br s, 1H, N-H). Anal. Calcd for C11H13F3N2O6 (326.23): C, 40.49; H, 3.99; N, 8.59. Found: C, 40.42; H, 4.17; N, 8.32.

reactant | 3',5'-Di-O-benzoyl-2'-O-methyl-5-trifluoromethyluridine | 20 mmoles, 10.6 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C(=C1)C(F)(F)F)OC | C25H21F3N2O8
reactant | Sodium | 30 mmoles, 0.7 g | [Na] | Na
reactant | Ammonium chloride | 31 mmoles, 1.6 g | [Cl-].[NH4+]
solvent | methanol | 250 ml | CO | CH4O
product | 2'-O-methyl-5-trifluoromethyluridine | 6.1 g, 94% | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C(F)(F)F | C11H13F3N2O6
